* C:\git\ltspice-projects\Jupiter 6 filter - reso CV and vca cv using const current sources - overdrive - 10 modes - no VCA.asc
R1 N042 N039 68k
R2 0 N042 560
C1 N049 0 330p
R4 cutoff_cc N048 10k
R5 N043 N029 68k
R6 0 N043 560
C2 N051 0 330p
R8 cutoff_cc N050 10k
R9 N044 N038 68k
R10 0 N044 560
C3 N053 0 330p
R12 cutoff_cc N052 10k
R13 N045 N031 68k
R14 0 N045 560
C4 N055 0 330p
R16 cutoff_cc N054 10k
XU1 NC_01 0 N042 N048 N049 15V -15V 0 NC_02 HALF13700
XU2 NC_03 0 N043 N050 N051 15V -15V 0 NC_04 HALF13700
XU5 NC_05 0 N044 N052 N053 15V -15V 0 NC_06 HALF13700
XU9 NC_07 0 N045 N054 N055 15V -15V 0 NC_08 HALF13700
C6 N064 mux2_out 1µ
R28 N063 N065 470k
R3 N039 N025 100k
R7 0 N046 8.2k
R15 N021 N046 47k
C7 N046 0 33p
R33 NC_09 N023 56k
R34 NC_10 N039 56k
R35 N026 N041 100k
R36 N038 N026 100k
C8 N047 0 33p
R37 N047 0 33k
D2 N047 N057 D
D3 N057 N047 D
R38 N057 0 10k
R39 N057 N031 47k
R17 N040 N024 22k
R18 N056 N038 22k
XU7 NC_11 0 N030 N027 N026 15V -15V NC_12 NC_13 HALF13700
R19 N031 N030 68k
R40 0 N030 560
R41 N024 N026 100k
C9 N024 N026 5p
XU15 NC_14 0 N022 N028 N025 15V -15V NC_15 NC_16 HALF13700
R42 N029 N022 68k
R43 0 N022 560
R44 N023 N025 100k
C10 N023 N025 5p
R32 N020 N019 10k
R45 N009 N020 8k2
R46 0 N009 560
C11 N020 0 0.1µ
Q3 N006 0 N010 0 PNP
Q4 cutoff_cc N009 N010 0 PNP
R47 N010 N012 1.5k
R48 -15V N006 1.5MEG
C12 N006 N012 47p
R49 N014 -15V 470k
R50 N014 FREQ_CV 49.9k
R51 N016 N014 100k
V13 15V 0 15
V14 0 -15V 15
XU16 N006 0 N012 opamp Aol=100K GBW=10Meg
XU17 N014 0 N016 opamp Aol=100K GBW=10Meg
R52 N014 P001 270k
XU18 15V -15V P001 pot_lin Rtot=220K wiper=0.5
XU19 N019 N016 N016 pot_lin Rtot=20K wiper=0.7
V15 FREQ_CV 0 2.5
V16 VCA_CV 0 5
V17 RESO_CV 0 0
V18 IN 0 SINE(0 5 337) AC 1
XU10 15V -15V N065 pot_lin Rtot=100K wiper=.51
XU3 N029 N049 N029 opamp Aol=100K GBW=10Meg
XU4 N025 N046 N039 opamp Aol=100K GBW=10Meg
XU6 N023 N051 N023 opamp Aol=100K GBW=10Meg
XU8 N031 N053 N031 opamp Aol=100K GBW=10Meg
XU12 N024 N055 N024 opamp Aol=100K GBW=10Meg
XU13 N063 0 OUT opamp Aol=100K GBW=10Meg
XU14 N026 N047 N038 opamp Aol=100K GBW=10Meg
R53 N021 N022 33k
R21 IN N036 100k
XU21 N036 0 N021 opamp Aol=100K GBW=10Meg
R22 N036 N021 33k
R54 N028 RESO_I_ABC 10k
R59 N027 RESO_I_ABC 10k
R62 NC_17 N029 5k
R65 mux2_out N031 47k
R66 N063 N064 1
Q2 N018 N015 N013 0 PNP
R26 N017 N013 1MEG
XU27 N013 0 N015 opamp Aol=100K GBW=10Meg
XU28 0 -15V N017 pot_lin Rtot=10K wiper=0.5
R27 N013 VCA_CV 10k
D1 N015 N013 D
R31 VCA_I_ABC N018 10k
Q1 RESO_I_ABC N002 N001 0 PNP
XU29 N001 0 N002 opamp Aol=100K GBW=10Meg
XU30 15V 0 N003 pot_lin Rtot=10K wiper=0.7
R29 P002 N005 10k
D4 N002 N001 D
XU31 P002 NC_18 N001 pot_lin Rtot=25K wiper=0.6
XU32 N004 0 N005 opamp Aol=100K GBW=10Meg
R67 N004 RESO_CV 100k
R68 N005 N004 100k
R20 N003 N001 39k
R30 LIN_FM N006 150k
XU20 N059 0 N060 opamp Aol=100K GBW=10Meg
R57 N060 N059 56k
R58 N041 N060 56k
R55 N023 N059 56k
R56 N059 N039 56k
C5 OUT N063 22p
XU22 N035 N032 N037 OVERLOAD_I_ABC N033 15V -15V NC_19 NC_20 HALF13700
XU23 N033 0 N034 opamp Aol=100K GBW=10Meg
R63 N032 0 510R
R64 N037 OUT 12k
R69 N033 N034 18k
R70 N035 NC_21 12k
R71 0 N037 510R
R72 N036 N034 100k
Q5 N011 N008 N007 0 PNP
R73 -15V N007 820k
XU24 N007 0 N008 opamp Aol=100K GBW=10Meg
R74 N007 OVERLOAD_CV 5.6k
D5 N008 N007 D
R75 OVERLOAD_I_ABC N011 10k
V1 OVERLOAD_CV 0 0
XU25 N063 OUT OUT pot_lin Rtot=200K wiper=0.28
R11 NC_22 N024 47k
R60 N058 N031 47k
R61 NC_23 N041 47k
XU26 N061 0 N062 opamp Aol=100K GBW=10Meg
R76 N061 N041 56k
R77 N062 N061 47k
R78 NC_24 N062 47k
.model D D
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.bjt
.lib LTC.lib
.lib lm13700.sub
.ac oct 100 0.1 20000
;tran 0 0.1 0 0.1
.lib opamp.sub
* 21.92k gir 17.9mV
;ac oct 100 0.1 20000
* Weird, but i need a 20k pot here to get \napprox 22k total here.
* No change to voltage if\nR34 and R35 are merged\nand C7 removed.
* 1V/Oct summing point.\n50k inp. resistor gives\n0.5V/oct
* Summing point\nUse 100k resistor
* HP
* LP
* BP
* LP
* HP
* BP
* VCA Gain (amplitude)\nSingle turn
* sum point, 10k\nresistor for similar \nresponse as CV
;dc V17 0 5 0.01
* 10k here matches the moog filter, making it possible to have a common summing point. \nShould idealy do the same for the Juno which has 15k..
* Calibrating resonance CV:\nTune U30 until you get -125uA Reso I_abc per OTA (or to freq response is OK)\nTune U31 until you get -25uA or -4uA Reso I_abc per OTA (for similar response to 5 or 10V CV on the JP6)\nNB: No deadband available.
* NB: CV must increase rapidly then slow down,\n(logarithmic?) unlike juno/moog where CV\nis exponential.
* 33k resistor here overdrives filter when > 10Vp.p \n(50k output)\n15k for no overdrive over larger.
* NB: Oscillation on output when cutoff CV > 5V
* Notch
* SVF1
* MUX1, 4:1
* MUX2, 8:1
* Find filter value
* NB: Negative input
* Use 22k or higher here for \ncomputer calibrated max \noverload
* Single turn
* VCA Balance\nSingle turn
* Single
* Single
* Single
* Multiple
* Simulation says R11 = 0k\nBreadboard says R11 = 47k
* DG408 or DG409 - need one for each\nas 4:1 x 2 cannot be split
* DG408
* SVF1 inverse phase
* SVF1
* BP + LP
* LP + LP, Notch + LP
* BP + HP
* HP + HP, Notch + HP
* BP + BP, Notch + BP
* HP, LP, BP, Notch
* Gain < 1 as breadboarded circuit\nhad too high output when signal \nwas inverted. Not sure if this is\ncaused by wires. Check real\ncircuit.
* Connect all filter types (HP, LP, BP, Notch) to output pins.\nConnect spare mux inputs to pins
.lib potentiometer_standard.lib
.backanno
.end
